* 4-opamp active filter (from your schematic)
* vi = cos(wt)  -> use AC analysis with Vin AC 1 (magnitude = 1)

.param R1a=9606  R1b=23280  R2=6800
.param C1=94.9n C2=20.5n
.param Rg=9304  Rq=52107   C3=15n
.param R3=9304  R4=9304    C4=15n
.param r=20k
.param A=50     ; ideal opamp open-loop gain

Vin in 0 SIN(0 1 2k)

* --- Stage 1 ---------------------------------------------------------
R1A in  n2 {R1a}
R1B n2  0  {R1b}
R2  n2  n3 {R2}
C2  n3  0  {C2}
C1  n2  n4 {C1}

* Opamp1: + at n3, - tied to output (voltage follower)
EOP1 n4 0 n3 n4 {A}

* --- Stage 2 ---------------------------------------------------------
RG1 n4 n6 {Rg}          ; input resistor into inverting node
RQ1 n6 n7 {Rq}          ; feedback resistor
C3_1 n6 n7 {C3}         ; feedback capacitor (parallel with RQ1)
R3_1 n6 out {R3}        ; summing from final output back to node n6

* Opamp2: + at ground, - at n6, output n7
EOP2 n7 0 0 n6 {A}

* --- Stage 3 ---------------------------------------------------------
R4_1 n7 n8 {R4}
C4_1 n8 n9 {C4}

* Opamp3: + at ground, - at n8, output n9
EOP3 n9 0 0 n8 {A}

* --- Stage 4 ---------------------------------------------------------
RIN4 n9  n10 {r}
RFB4 n10 out {r}

* Opamp4: + at ground, - at n10, output out (= vout)
EOP4 out 0 0 n10 {A}

* (helps convergence / avoids floating nodes)
RLEAK1 n4  0 1G
RLEAK2 n7  0 1G
RLEAK3 n9  0 1G
RLEAK4 out 0 1G

*.ac dec 200 1 1e6
.tran 5u 7.5m 0 5u ; uncomment if you want time-domain sim (then define Vin as SINE)

.end
